US08912186B2
2) 5-(p-Chlorobenzyliden)-2,2-dimethyl-1,3-dioxane-4,6-dione
Prepared from Meldrum's acid and 4-chlorobenzaldehyde by Cope-Knoevenagel reaction.

reactant | Meldrum's acid | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 5-(p-Chlorobenzyliden)-2,2-dimethyl-1,3-dioxane-4,6-dione | ClC1=CC=C(C=C2C(OC(OC2=O)(C)C)=O)C=C1 | C13H11ClO4
